Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Motrin / lisinopril / atenolol
 
Attending: ___
 
Chief Complaint:
diverticulitis 
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
 ___ who is being treated for diverticulitis as an outpatient 
with PO Cipro/Flagyl since ___ who is presenting for worsening 
LLQ abdominal pain, decreased PO intake, vomiting and diarrhea. 
She notes an episode of bloody diarrhea yesterday that has since 
resolved. She feels very weak and has the chills, but denies 
fevers, CP, SOB or palpitations.  
 In the ED, initial vitals were:  
 96.3 92 150/88 22 100% RA  
 - Exam notable for: B/L 2+ edema, LLQ pain  
 - Labs notable for: Chem-7 wnl, WBC 10.3 crit 32.5  
 - Imaging was notable for: Acute diverticulitis just distal to 
the splenic flexure without evidence of complicating abscess.  
 - Patient was given: Zofran, morphine, zosyn X2  
 - Vitals prior to transfer: 98.4 77 131/69 17 95% RA  
 Upon arrival to the floor, patient reports she started to have 
abdominal pain and nausea with some chills prior to presenting 
to her doctor on ___ where she was rx cipro/flagyl for 
diverticulitis. Since ___, she reports her abdominal pain has 
gotten worse. She reports 4X episodes of blood with watery stool 
on ___ and one episode on ___ which have since resolved. She 
denies any history of constipation. She reports feeling 
miserable and nauseous to the point of dry heaving, and reports 
she sometimes does feel feverish now instead of just having 
chills. She reports no recent contacts having stomach issues  
 
Past Medical History:
 HTN  
 GERD  
 Obesity  
 Pulmonary nodules  
 right total knee replacement ___  
 1 prior episode of diverticulitis 
 
Social History:
___
Family History:
 Mother with history of diverticulosis + itis  
 
Physical Exam:
ADMISSION 
 Vital Signs: 130 / 60 L Lying 68 20 98 Ra  
 General: Alert, oriented, feeling miserable, lying on side, 
flat effect ___ illness  
 HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL.  
 Neck: Supple. JVP not elevated. no LAD  
 CV: Regular rate and rhythm. Normal S1+S2, no murmurs, rubs, 
gallops.  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 Abdomen: Soft, non-tender, tender to palpation throughout, but 
especially over LLQ. No CVAT.  
 GU: No foley  
 Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
 Rectal: No external hemorrhoids noted.  

DISCHARGE
 Vital Signs: 98.0PO 132 / 79R Lying 68 18 94  
 General: Alert, oriented, mood improved
 HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL.  
 Neck: Supple. JVP not elevated. no LAD  
 CV: Regular rate and rhythm. Normal S1+S2, no murmurs, rubs, 
gallops.  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 Abdomen: Soft, non-tender, mildly tender to palpation over left 
side over LLQ. No CVAT.  
 GU: No foley  
 Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
 Rectal: No external hemorrhoids noted.  
 
Pertinent Results:
ADMISSION
___ 05:20PM BLOOD WBC-10.3* RBC-3.81* Hgb-10.1* Hct-32.5* 
MCV-85 MCH-26.5 MCHC-31.1* RDW-15.4 RDWSD-46.9* Plt ___
___ 05:20PM BLOOD Neuts-65.0 ___ Monos-11.8 Eos-1.3 
Baso-0.3 Im ___ AbsNeut-6.70* AbsLymp-2.16 AbsMono-1.22* 
AbsEos-0.13 AbsBaso-0.03
___ 05:20PM BLOOD Plt ___
___ 05:20PM BLOOD Glucose-90 UreaN-9 Creat-0.7 Na-138 K-5.0 
Cl-100 HCO3-23 AnGap-20
___ 05:20PM BLOOD ALT-9 AST-28 AlkPhos-96 TotBili-0.3
___ 05:20PM BLOOD Albumin-3.5 Calcium-9.3 Phos-3.1 Mg-1.8
___ 05:20PM BLOOD CRP-87.6*
___ 05:35PM BLOOD Lactate-1.6

DISCHARGE
___ 07:00AM BLOOD WBC-4.7 RBC-3.41* Hgb-9.1* Hct-29.3* 
MCV-86 MCH-26.7 MCHC-31.1* RDW-15.3 RDWSD-47.7* Plt ___
___ 07:00AM BLOOD Glucose-107* UreaN-6 Creat-0.6 Na-140 
K-3.7 Cl-104 HCO3-22 AnGap-18
___ 07:00AM BLOOD Calcium-8.2* Phos-3.5 Mg-1.7

CT A/P ___
Uncomplicated acute diverticulitis of proximal descending colon.
 
Brief Hospital Course:
___ F with hx of HTN and 1 prior episode of diverticulitis 
started treatment for diverticulitis on ___ with cipro/flagyl 
who was admitted for pain and nausea. Initial antibiotics 
appeared to be ineffective secondary to 
nausea/vomiting/diarrhea. She received 3 days of IV cipro/flagyl 
with improvement before transition to PO augmentin. 

# Acute diverticulitis without complication: Failed outpt mgmt. 
due to nausea, pain control, chills and dry heaving. She was on 
cipro+flagyl but poorly tolerated. CT abd/pelvis w/o evidence of 
abscess. Symptoms have improved. She will take augmentin BID 
through ___.

# HTN: restarted amlodipine 10mg, continued to hold HCTZ

# GERD: home omeprazole 

TRANSITIONAL ISSUES
- adjust outpatient antihypertensives as indicated. HCTZ 
currently held. SBPs have been in 120s-130s. 
- Ensure resolution on augmentin for total 10 day course until 
___
- If symptoms persist after ___ weeks, may need surgical 
evaluation
- stool studies pending, although low suspicion for infectious 
diarrhea
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 10 mg PO DAILY 
2. Hydrochlorothiazide 25 mg PO DAILY 
3. Omeprazole 20 mg PO DAILY 
4. Pravastatin 20 mg PO QPM 
5. Ciprofloxacin HCl 500 mg PO Q12H 
6. MetroNIDAZOLE 500 mg PO TID 
7. HYDROcodone-Acetaminophen (5mg-325mg) 2 TAB PO Q8H:PRN Pain - 
Mild 

 
Discharge Medications:
1.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H 
RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 tablet(s) by 
mouth twice a day Disp #*13 Tablet Refills:*0 
2.  Ondansetron ODT ___ mg PO Q8H:PRN nausea 
RX *ondansetron 4 mg 1 tablet(s) by mouth every eight (8) hours 
Disp #*8 Tablet Refills:*0 
3.  amLODIPine 10 mg PO DAILY  
4.  Omeprazole 20 mg PO DAILY  
5.  Pravastatin 20 mg PO QPM  
6. HELD- Hydrochlorothiazide 25 mg PO DAILY  This medication was 
held. Do not restart Hydrochlorothiazide until your doctor tells 
you to restart

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
diverticulitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ for diverticulitis, an infection in 
the colon. 

WHAT WAS DONE
=============
- You were given antibiotics, first through the IV and then by 
mouth
- You were given pain medicine and anti-nausea medicine
- You started feeling better

WHAT TO DO NEXT
===============
- Take all medications as prescribed, especially your 
antibiotics
- Take your antibiotic twice a day through ___
- Follow up with your doctors as ___
- ___ you doctors know if your symptoms get worse
- Your hydrochlorothiazide was held. Do not restart until your 
doctor tells you. 
We wish you the best of health moving forward
 
Followup Instructions:
___